Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with stage IV ovarian cancer not currently on 
chemotherapy, recent surgery for femoral neck fracture in 
___, recent five day hospitalization at ___ for fever, 
who represents to ___ with concern of elevated temperature. 

In brief, the patient had a five day hospitalization at ___ from 
___. The patient states that at that time she had many 
URI symptoms including b/l maxillary sinus tenderness, purulent 
rhinorrhea, nonproductive cough, sore throat. Denies recent sick 
contacts. No other s/s of infection. Per ___ phone contact and 
patient, on arrival at ___ she had objective fevers ranging from 
101-102; she was put on empiric antibiotics with improvement of 
her symptoms and fevers. Per the patient, no source found. These 
were not continued after her hospitalization. Upon going home, 
she states that she was feeling well. 

About one to two days prior to presentation in the ED, the 
patient states that she felt "not herself" and "not feeling 
right," although unable to clarify, denies malaise, fatigue, 
pain. Endorses recurrent b/l maxillary sinus tenderness and 
yellow thick discharge. Denies cough, LAD. Denies diarrhea, 
abdominal pain. Endorses 1 day history of dysuria, although 
denies hematuria, back pain, urgency, frequency. 

Patient called ___ on call, and referred to the ED.  

In ED, Initial VS:  99.0  102  150/92  18  100% RA 
Exam: no obvious focus of infection on exam 
Patient had labs without leukocytosis, BMP WNL, LFT within 
normal limits, with exception of mildly elevated AP of 125; 
d-dimer 996, sent for CTA that was negative for PE; CXR also 
negative for pneumonia. U/A with moderate ___ and 11 pyuria. 

Decision made to admit given recent admission and 
immunosuppression.

On arrival, patient endorses history as above. Some 
constipation, relieved with docusate/miralax. In regards to 
enoxaparin, patient states this was discontinued ___ to 
hematochezia, which has resolved after discontinuation. Pain in 
hip is persistent, but in general improving, has not worsening 
prior to this hospitalization, continues to be able to bear all 
weight on the hip.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI. 

 
Past Medical History:
Past Medical History:
___ presented at ___ with acute RLQ 
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with TAH/BSO, pelvic tumor resection, total pelvic 
lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal 
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ 
___ possible surgical resection
- ___ C1D1 Carboplatin
- ___: C2D1 Carboplatin
- ___: C3D1 Carboplatin
- ___: C4D1 Carboplatin

PAST MEDICAL HISTORY: 
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS

 
Social History:
___
Family History:
 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITAL SIGNS: 98.3 ___ 18 97%RA
General:  non-toxic appearing female in NAD. Very pleasant. 
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly. B/l maxillary sinus 
tenderness. Some TTP in frontal sinuses. 
CV:  RR, NL S1S2 no S3S4 MRG
PULM/Chest:  CTAB. Port site accessed, no TTP, no erythema 
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly, no 
suprapubic tenderness
GU: no foley
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy; L hip with well healing incision site, some 
erythema. Slight TTP patient states is improving, no loculations 
or abscesses palpated, fROM 
SKIN:  No rashes or skin breakdown
Back: No CVAT
NEURO: Oriented x3. grossly normal cranial nerves; MAE 
spontaneously and equally
.
DISCHARGE EXAM:
========================
Vital signs: 98.2PO 100 / 60 85 16 98% RA 
General:  non-toxic appearing female in NAD. Very pleasant. 
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly. B/l maxillary sinus 
tenderness. Some TTP in frontal sinuses. 
CV:  RR, NL S1S2 no S3S4, no MRG
PULM/Chest:  CTAB. Port site accessed, no TTP, no erythema 
BACK: No CVA tenderness
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly, no 
suprapubic tenderness
GU: no foley
LIMBS:  No edema, clubbing, tremors
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. CN II-XII intact; upper and lower 
extremities with ___ strength

 
Pertinent Results:
ADMISSION LABS:
==================
___ 12:30AM BLOOD WBC-5.5# RBC-2.87* Hgb-8.8* Hct-26.3* 
MCV-92 MCH-30.7 MCHC-33.5 RDW-13.6 RDWSD-44.0 Plt ___
___ 12:30AM BLOOD Neuts-73.3* Lymphs-18.1* Monos-6.3 
Eos-1.6 Baso-0.2 Im ___ AbsNeut-4.06# AbsLymp-1.00* 
AbsMono-0.35 AbsEos-0.09 AbsBaso-0.01
___ 12:30AM BLOOD Plt ___
___ 12:30AM BLOOD Glucose-100 UreaN-11 Creat-0.7 Na-135 
K-3.6 Cl-97 HCO3-26 AnGap-16
___ 12:30AM BLOOD ALT-9 AST-12 AlkPhos-125* TotBili-0.2
___ 12:30AM BLOOD Albumin-3.7
___ 12:30AM BLOOD D-Dimer-996*
___ 12:41AM BLOOD Lactate-1.1
.
MICRO:
==================
UCx with prelim GNR
.
BCx pending
.
Flu negative
.
Viral screen negative, culture pending
.
REPORTS:
==================
CXR PA/Lateral ___:
IMPRESSION:  
No acute cardiopulmonary process. 
.
CTA Chest ___:
IMPRESSION:  
No pulmonary embolus or acute aortic abnormality. 
.
DISCHARGE LABS:
==================
___ 05:27AM BLOOD WBC-4.3 RBC-2.97* Hgb-9.1* Hct-27.6* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-13.8 RDWSD-45.1 Plt ___
___ 05:27AM BLOOD Plt ___
___ 05:27AM BLOOD Glucose-91 UreaN-9 Creat-0.8 Na-137 K-3.7 
Cl-98 HCO3-30 AnGap-13
___ 05:27AM BLOOD Calcium-9.1 Phos-4.9* Mg-1.___ year old female with recurrent high grade serous ovarian 
cancer s/p ___ screw fixation of left femoral neck stress 
fracture, currently off chemotherapy since ___, with 
recent admission to ___ for evaluation of fever, 
representing to ___ for concern of temperature 100.1 at home 

Patient with reported temperature at home to 100.1 after 5 day 
stay at OSH. recently with fever with unknown underlying 
infection, treated with 5d vanc/cefepime. Patient with s/s of 
sinusitis; urinary symptoms and urinalysis with moderate ___ and 
pyuria making urinary tract infection a possibility, UCx prelim 
growing GNRs. Flu panel and RAP panel negative, viral culture 
pending. CTA negative for PE or atelectasis. L hip replacement 
appears well healed and benign appearing. Patient admitted to 
oncology inpatient service and placed on 
amoxicillin-clavulanate. Patient monitored overnight without 
recurrence of fever and well-appearing. 

TRANSITIONAL ISSUES
====================
NEW MEDICATIONS: Amoxicillin-clavulanate 875/125 x 7 days ___ - ___

FOLLOW UP TESTS: urine culture, blood cultures

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Amitriptyline 20 mg PO QHS insomnia 
3. ARIPiprazole 4 mg PO QPM 
4. Calcium Carbonate 500 mg PO QID:PRN abd pain 
5. Diazepam 5 mg PO Q8H:PRN muscle spasm 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. DULoxetine 120 mg PO DAILY 
8. Fentanyl Patch 25 mcg/h TD Q72H 
9. Gabapentin 600 mg PO QHS 
10. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
11. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
12. Loratadine 10 mg PO DAILY 
13. LORazepam 0.5 mg PO QHS:PRN insomnia 
14. Morphine Sulfate ___ 7.5-15 mg PO Q6H:PRN Pain - Moderate 
15. Omeprazole 40 mg PO DAILY 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation  
4.  Morphine Sulfate ___ 7.5-15 mg PO Q6H:PRN Pain - Moderate  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Amitriptyline 20 mg PO QHS insomnia  
7.  ARIPiprazole 4 mg PO QPM  
8.  Calcium Carbonate 500 mg PO QID:PRN abd pain  
9.  Diazepam 5 mg PO Q8H:PRN muscle spasm  
10.  DULoxetine 120 mg PO DAILY  
11.  Fentanyl Patch 25 mcg/h TD Q72H  
12.  Gabapentin 600 mg PO QHS  
13.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

14.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
15.  Loratadine 10 mg PO DAILY  
16.  LORazepam 0.5 mg PO QHS:PRN insomnia  
17.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Uncomplicated acute bacterial rhinosinusitis 
Cystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
    
You presented to the emergency department because you didn't 
feel well. You had a temperature, and you were found to likely 
have an infection in your sinuses and urinary tract. Please 
continue to take the antibiotics prescribed for 7 days total. 
Should you notice any new fevers or worsening symptoms, please 
seek medical care.

We wish you the best,
Your ___ care team 
 
Followup Instructions:
___